US07192970B2
Preparation of methyl 2-carbamoyl-3-[4-[2-(6-quinolinoxy)ethoxy]phenyl]propionate
To a solution of 2-(methoxycarbonyl)-3-[4-[2-(6-quinolinoxy)ethoxy]phenyl]propionic acid (2.11 g, 5.29 mmol) in benzene (20 ml) at room temperature is added thionyl chloride (0.76 g, 6.34 mmol). Then the mixture was heated at 80° C. for 90 min. After cooled to room temperature, the solvent is removed under a vacuum. To the residue is added 28% ammonia solution (5.49 ml, 79.30 mmol) at room temperature. The mixture is stirred for 30 min, dissolved in ethyl acetate (20 ml), washed with brine (3×15 ml), dried over sodium sulfate, and concentrated. The crude product is crystallized from ethanol to give title compound (1.20 g, 57%). HRMS calcd for C22H26N2O5: 398.4558. Found: 398.4554. MA calcd for C22H26N2O5: C, 66.32%; H, 6.58%; N, 7.03%. Found: C, 66.44%; H, 6.54%; N, 7.05%

reactant | 2-(methoxycarbonyl)-3-[4-[2-(6-quinolinoxy)ethoxy]phenyl]propionic acid | 5.29 mmol, 2.11 g | COC(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCOC=1C=C2C=CC=NC2=CC1 | C22H21NO6
reactant | thionyl chloride | 6.34 mmol, 0.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 79.30 mmol, 5.49 ml | N | H3N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-carbamoyl-3-[4-[2-(6-quinolinoxy)ethoxy]phenyl]propionate | 1.20 g, 57% | C(N)(=O)C(C(=O)OC)CC1=CC=C(C=C1)OCCOC=1C=C2C=CC=NC2=CC1 | C22H22N2O5
